US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-6-(cyclopropylmethyl-amino)-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine in dioxane in the presence of N-ethyl-diisopropylamine at 90° C. to yield 4-(cyclopropylmethyl-amino)-2-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, light brown solid; MS: [M+H]+=394.

reactant | 4-chloro-6-(cyclopropylmethyl-amino)-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCC1CC1)NCCO | C11H14ClN5O
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(cyclopropylmethyl-amino)-2-(2-hydroxy-ethylamino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | C1(CC1)CNC1=NC(=NC(=C1C#N)N1CCN(CC1)C1=CC=CC=C1)NCCO | C21H27N7O
